US08138352B2
7-Amino-5-benzyl-4-oxo-7-methyl-5-azaspiro[2.4]heptane
A suspension of 7-t-butoxycarbonylamino-4-oxo-7-methyl-5-azaspiro[2.4]heptane (10.0 g, 41.6 mmol) in dimethylacetamide (100 mL) was cooled with ice, and t-butoxy potassium (4.67 g, 1.0 eq.) and benzyl chloride (5.27 mL, 1.1 eq.) were added thereto. The reaction mixture was returned to room temperature, followed by stirring for 2 hours. Thereafter, water was added to the mixture, followed by extraction with toluene. The solvent of the extract was evaporated under reduced pressure, to thereby yield 5-benzyl-7-t-butoxycarbonylamino-4-oxo-7-methyl-5-azaspiro[2.4]heptane as a crude product. The crude product was dissolved in toluene (100 mL), and methanesulfonic acid (2.97 mL) was added to the solution, followed by stirring under reflux for 2 hours. The reaction mixture was cooled to room temperature. Water was added to the cooled mixture for extraction, and the formed organic layer was removed. Aqueous sodium hydroxide solution (5N) was added to the remaining aqueous layer so as to alkalify the layer, followed by extraction with toluene. The solvent of the extract was evaporated under reduced pressure, to thereby yield the title product as a pale brown solid (8.63 g, yield: 90.1%).

reactant | 7-t-butoxycarbonylamino-4-oxo-7-methyl-5-azaspiro[2.4]heptane | 41.6 mmol, 10.0 g | C(C)(C)(C)OC(=O)NC1(CNC(C12CC2)=O)C | C12H20N2O3
reactant | t-butoxy potassium | 4.67 g, 1.0 eq. | C(C)(C)(C)O[K]
reactant | benzyl chloride | 5.27 mL, 1.1 eq. | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | water | O | H2O
solvent | dimethylacetamide | 100 mL | CC(=O)N(C)C | C4H9NO
product | 7-Amino-5-benzyl-4-oxo-7-methyl-5-azaspiro[2.4]heptane | 8.63 g, yield: 90.1% | NC1(CN(C(C12CC2)=O)CC2=CC=CC=C2)C | C14H18N2O
